US06054448
iii) Methyl-N-formyl-α-(3,3-diethoxycarbonylcyclo butyl)glycinate
A solution of methyl N-formyl-α-(3,3-diethoxycarbonylcyclobutylidene)glycinate (0.46 g, 1.47 mmol) in ethanol (40 ml) was hydrogenated over 10% palladium-carbon (100 mg) at 65 psi for 24 hours. The reaction mixture was filtered through a pad of celite and evaporated to give a yellow oil.

reactant | methyl N-formyl-α-(3,3-diethoxycarbonylcyclobutylidene)glycinate | 1.47 mmol, 0.46 g | C(=O)NC(C(=O)OC)=C1CC(C1)(C(=O)OCC)C(=O)OCC | C14H19NO7
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | Methyl-N-formyl-α-(3,3-diethoxycarbonylcyclo butyl)glycinate | COC(C(NC=O)C1CC(C1)(C(=O)OCC)C(=O)OCC)=O | C14H21NO7
